Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm suicidal."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry 
Consult note:
.
"Patient reports increasing suicidal thoughts occurring multiple 
times per day up to multiple times per hour. These thoughts 
include that she would be better off dead and that her son would 
be better of without her around. She endorses profound sadness, 
hopelessness, worthlessness, increased appetite, hypersomnia, 
amotivation, decreased energy since ending her relationship with 
her boyfriend (4 days ago). Patient reports ex-boyfriend was 
physically and emotionally abusive. Patient reports cutting 
wrists last week and re-engagement in IV drug use 4 days ago. 
Patient endorses increased alcohol use and new use of ___ 
(methamphetamine) intravenously. Patient states that since the 
loss of custody of her son 6 months ago she has been 
"self-medicating" with crack cocaine and alcohol, trying to 
"numb the [emotional pain." She reports use of IV heroin in the 
past but has not used any IV drugs since her use of meth, 1.5 
days ago. Patient attributes this as a huge personal failure as 
she see's the use of IV drugs as a loss of control. Prior 
sobriety from heroin for ___ years approximately ___ years ago. 
She presented to the ED today, to seek help with her worsening 
depressive symptoms and re-establish sobriety as she believes 
she has hit "rock bottom."
.
================= REVIEW OF SYSTEMS: ================== 
PSYCHIATRIC -Positive per HPI -Denies the following: auditory or 
visual hallucinations, elevated mood, increased activity/energy, 
MEDICAL -Pertinent Positives: -Denies: visual changes, chest 
pain, SOB, nausea, vomiting, constipation, diarrhea, rashes, 
dysuria
.
COLLATERAL BEST last evaluated ___
.
In the ED, patient remained in good behavioral control without 
requiring physical or chemical restraint.
.
On interview today, patient reiterates the above history, 
stating that she was doing well until approximately ___ year ago 
when she moved and had to change providers. She states that her 
new provider changed her medication regimen, which lead to her 
losing faith with that provider and ___ her 
medications. Shortly after, she relapsed on alcohol, and 
subsequently started to use other substances randomly as people 
would offer them to her, namely methamphetamine several days ago 
and crack cocaine within the last week. She reports being unable 
to identify how much/how often she was drinking alcohol, as she 
has no source of income and thus was unable to purchase it on a 
regular basis. She denies any significant withdrawal symptoms 
when she goes without drinking, but she does report that in the 
past when she drank more heavily she sometimes would have 
withdrawal symptoms. She reports that her only physical 
complaint is pinky pain from a fracture she obtained in a fist 
fight. She says it was xrayed at an outside hospital, and they 
only recommended splinting it. She does report having SI this 
morning, but denies any at current time. She reports that if she 
has return of her SI, she would feel comfortable approaching a 
staff member.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Past diagnoses: depression, anxiety, PTSD, ADHD
- Hospitalizations: multiple, most recent at ___
- Psychiatrist & Therapist:
     none currently
- Medication and ECT trials (reason for d/c if known):
     "they're in the chart" 
Per Medications tab in Chart reviewed: ___
          Suboxone ___ last prescribed on ___ 
          Mirtazapine 15mg QHS     "                "
          Gabapentin 800mg PO TID  "                "
          Buproprion HCL XL 150 MG "                "
          Quetiapine 50mg          ___
          Trazodone  100mg         ___
          Levetiracetam 500mg BID  ___
- Self-injury/Suicide attempts:
     Multiple attempts > 5 
     first in ___ via Acetaminophen overdose
- Trauma:
     sexual and physical trauma by older child in foster home
.
PAST MEDICAL HISTORY:
Denies chronic medical conditions
**PCP: ___ currently 
Denies history of head trauma, seizure.
 
Social History:
SOCIAL HISTORY:
Homeless for the past year. Sleeping during the day in an 
abandoned building. Occasionally staying at biological mother's 
house. Recently reconnected with her. Mother is an alcoholic. 
Spends days sleeping, drinking, doing drugs. Used to pay for 
drugs with boyfriends money. Was ___ year long verbally and 
occasionally physically abusive relationship. 
.
B/R ___. Was given up for adoption because parents 
were crack cocaine addicts. She was never that close with foster 
parents. Reports poor upbringing, sexual assault via another 
older boy in house. Patient completed HS and did some college at 
___. Patient worked multiple odd jobs including 
___, ___, ___. 
.
Reconnected with biological father mid ___ after father was 
sober. Father diagnosed with ___ disease in ___. Died 
about ___ years later.
.
SUBSTANCE USE HISTORY:
- EtOH: "Drink as much as money will allow." last drink several 
days ago. denies h/o of alcohol withdrawal seizures 
- Tobacco: 1 pack a day
- Cannabis: denies
- Illicits: Percocet use in teens --> IV heroin use. Longest 
period of sobriety is ___ years while in sober living. Crack 
cocaine use starting one year ago used up until 4 days ago. 
Methamphetamine use via IV route starting 4 days ago, last use 
1.5 days ago. 
.
FORENSIC HISTORY:
- Arrests: ___ possession --> court mandated drug treatment.
Denies time in prison or jail. Denies pending charges.
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Biological father = ___ disease, attempted suicide at 
age ___
-Biological Mother = ___ use disorder
 
Physical Exam:
VITAL SIGNS:
Temp 98.4 POBP 110 / 80HR 94RR 16oxygen sat 95%
.
EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus. Bruise under 
right eye.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs. 
Mild deformation of left pinky with some swelling. 
-Skin: No rashes or lesions noted.
.
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3 
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the 
other side" as "Everybody else has better."
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
Mental Status:
-Appearance: ___ year old woman appearing stated age, fairly 
groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting up, appropriate eye contact, moderate 
psychomotor agitation 
-Attitude: Cooperative, defensive 
-Mood: "Depressed"
-Affect: Mood-congruent, labile, tearful
-Speech: increased rate and volume
-Thought process: Somewhat tangential at time, no clear LOA
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Limited
-Judgment: Poor
 
Pertinent Results:
___ 06:39AM BLOOD ALT-24 AST-21 AlkPhos-59 TotBili-<0.2
___ 06:39AM BLOOD Calcium-9.2 Phos-3.8 Mg-2.0 Cholest-195
___ 06:39AM BLOOD %HbA1c-4.9 eAG-94
___ 06:39AM BLOOD Triglyc-121 HDL-63 CHOL/HD-3.1 
LDLcalc-108
___ 06:39AM BLOOD TSH-0.27
___ 06:39AM BLOOD HCG-<___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission; she also signed a 3 day notice that 
expired on ___. Ms. ___ maintained her safety throughout 
her hospitalization and did not require physical or chemical 
restraints. However, she was noted to be irritable and agitated, 
screaming in the milieu at times, but was redirectable. 
.
2. PSYCHIATRIC:
This is the complicated case of a ___ year old single woman with 
unclear psychiatric diagnoses but with self reported history of 
depression, PTSD, ADHD, severe alcohol use disorder, stimulant 
use disorder, opiate use disorder on suboxone in the
past, s/p numerous psychiatric hospitalizations, who self 
presented to ___ ED reporting worsening depression and SI in 
the setting of numerous ongoing psychosocial stressors. Hospital 
course notable for labile mood, anxiety, reported depressive 
symptoms with irritability in the setting of traumatic childhood 
with numerous losses and significant substance use. Of note, 
there is also a paternal family history of ___ disease; 
unclear if patient is a carrier at this time. 
. 
Diagnostically, etiology of presentation is unclear to me at 
this time with differential diagnosis very broad-- includes 
substance induced mood disorder, complex trauma, underlying 
character pathology, primary mood disorder, and of course, her 
family history of ___ disease is concerning. Mental 
status examination was notable for intermittent psychomotor 
agitation, depressed mood that was very labile and reactive when 
she felt her needs were not being met, some distractability but 
with thought process that was linear, goal oriented on my 
examination. 
.
Overall, patient reported that on a prior regimen of gabapentin, 
bupropion, and dextroamphetamine doing quite well, with a 
reported period of ___ years of sustained abstinence while living 
in a sober living home. Of note, this was unconfirmed. While the 
patient was here, she was persistently insistent upon being 
prescribed stimulants during her admission, and was at times 
quite demanding and medication seeking. Given her recent relapse 
on alcohol and stimulants, it was determined that we did not 
have sufficient evidence to begin prescribing stimulants during 
the patient's admission and that the risks of restarting a 
stimulant outweighed the benefits.. For her mood and anxiety, 
she was started on Wellbutrin XL and Gabapentin, with eventual 
doses of Wellbutrin XL 300 mg daily and Gabapentin 800 mg PO 
TID. The patient overall tolerated well these medications and 
found them helpful for her mood and anxiety. In addition, for 
her alcohol cravings, she was started on Naltrexone. By time of 
discharge, the patient was prescribed a total of Naltrexone 50 
mg daily, and the patient found this medication to be helpful 
for her alcohol cravings. She tolerated this medication well 
without major side effects. In order to aid with the patient's 
nightmares, she was also started on Prazosin, which she 
tolerated well without major side effects and which she found 
helpful for nightmares. Finally, the patient was offered as 
needed Seroquel 50 mg TID for anxiety, agitation and insomnia, 
which the patient overall tolerated well and found helpful for 
the above stated symptoms. By time of discharge, patient's 
mental status was notable for improved mood, brighter affect, 
linear and goal-directed thought processes, denial of suicidal 
ideation, denial of violent ideations, denial of AVH, and fair 
insight and judgment. Of note, although the treatment team 
strongly recommended referral to residential substance abuse 
treatment vs. partial plus program, the patient declined these 
referrals, stating she preferred to follow up with outpatient 
providers. Given her denial of SI, strong desire to leave the 
hospital and capacity to make this decision, thought process 
that was linear, logical, goal and future oriented (patient 
wanting to continue outpatient treatment so she could regain 
custody of her son), she was discharged prior to expiration of 
her 3 day notice with plan to stay with her mother over the 
weekend and then live with her friend. 
.
3. SUBSTANCE USE DISORDERS:
#) Nicotine Use Disorder 
During her admission, the patient was provided both with smoking 
cessation counseling and nicotine supplementation via Nicotine 
Patch 14 mg TD daily. At discharge, patient was prescribed 
nicotine patch for further smoking cessation aid and provided 
with follow up for ongoing smoking cessation counseling. 
.
#) Alcohol Use Disorder
Patient on admission was monitored for signs and symptoms of 
alcohol withdrawal, which she did not demonstrate. The patient 
was prescribed Naltrexone during her admission, with a final 
dose of 50 mg upon discharge. The patient tolerated well this 
medication, and she found it helpful for alcohol cravings. We 
encouraged use of AA upon DC for further sobriety support. 
.
#) Stimulant and opioid use disorder
Patient was provided with education regarding the deleterious 
effects of substance use upon mental health, and was encouraged 
to utilize AA/NA upon DC for further sobriety support. Given 
concerns for recent relapse on methamphetamine and lack of 
collateral information to confirm diagnosis, the risk of 
initiation stimulant prescription during admission was 
determined to outweigh the benefit of starting a stimulant at 
this time. We would recommend that outpatient providers proceed 
cautiously prior to initiating stimulants. Of note, patient 
stated she had Narcan and so she was not prescribed this at 
discharge. 
.
4. MEDICAL
#) Finger fracture
Xray was ordered, which demonstrated a healing fracture of the 
left fifth middle phalanx with soft tissue swelling. 
Orthopaedics was consulted, who recommended an OT consult for 
custom ulnar gutter splint with DIP in extension. They 
recommended remaining in splint until follow-up in Hand Clinic 
in ___ weeks.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. The patient was often visible 
within the milieu, and interacted appropriately with peers and 
staff without ever requiring physical/chemical restraint or 
isolation.
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The the patient's written consent, records requests were sent to 
her previous providers, CHA and her previous sober living home. 
These records were never received however. 

 
Medications on Admission:
None
 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 300 mg PO DAILY 
2.  Gabapentin 800 mg PO TID 
3.  Naltrexone 50 mg PO DAILY  
4.  Nicotine Patch 14 mg/day TD DAILY 
5.  Prazosin 2 mg PO QHS 
6.  QUEtiapine Fumarate 50 mg PO TID PRN' Agitation, anxiety, 
insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder, rule out substance-induced mood 
disorder
Unspecified trauma- and stressor-related disorder 
Alcohol use disorder 
Opioid use disorder
unspecified stimulant use disorder, Moderate

 
Discharge Condition:
Vitals:
Temp: 98.4 (Tm 98.4), BP: 131/79, HR: 94, RR: 17, O2 sat: 98%

Mental Status:
-Appearance: ___ year old woman appearing stated age, well 
groomed, wearing casual clothing, in no apparent distress
-Behavior: Sitting up, appropriate eye contact, no psychomotor 
agitation or retardation
-Attitude: Cooperative, engaged
-Mood: 'Anxious'
-Affect: Mood-congruent, full range
-Speech: Somewhat increased rate and volume
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Fair
-Judgment: Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___